US08222416B2
To a solution of {1-benzenesulfonyl-2-[1-hydroxy-2-(tetrahydro-pyran-4-yl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-carbamic acid tert-butyl ester (1.5 g, 3.0 mmol) in dichloromethane (15 mL) was added Dess-Martin periodinane (4.44 g, 10.4 mmol) at 25° C. The reaction mixture was stirred at 25° C. for 1 h and then quenched with a saturated aqueous sodium bicarbonate solution (20 mL). The mixture was extracted with ethyl acetate (100 mL), washed with a saturated aqueous sodium bicarbonate solution (3×20 mL), brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. The residue was purified by flash column chromatography (silica gel from QingDao, 200-300 mesh, 50% ethyl acetate/hexanes) afforded [1-benzenesulfonyl-2-(2-tetrahydro-pyran-4-yl-acetyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-carbamic acid tert-butyl ester (1.0 g, 67%) as a light yellow solid: LC/MS m/e calcd for C25H29N3O6S [M+H]+ 500.59, observed 500.2.

reactant | {1-benzenesulfonyl-2-[1-hydroxy-2-(tetrahydro-pyran-4-yl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-carbamic acid tert-butyl ester | 3.0 mmol, 1.5 g | C(C)(C)(C)OC(NC=1C=C2C(=NC1)N(C(=C2)C(CC2CCOCC2)O)S(=O)(=O)C2=CC=CC=C2)=O | C25H31N3O6S
reactant | Dess-Martin periodinane | 10.4 mmol, 4.44 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | [1-benzenesulfonyl-2-(2-tetrahydro-pyran-4-yl-acetyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-carbamic acid tert-butyl ester | 1.0 g, 67% | C(C)(C)(C)OC(NC=1C=C2C(=NC1)N(C(=C2)C(CC2CCOCC2)=O)S(=O)(=O)C2=CC=CC=C2)=O | C25H29N3O6S
